US07453010B2
A mixture of 0.16 g of trans-N-[5-[((2S)-3-{benzyl[4-(1,1′-biphenyl-4-yl)cyclohexyl]amino}-2-hydroxypropyl)oxy]-2-(benzyloxy)phenyl]methanesulfonamide (0.23 mmol) and of 0.1 g of 10% palladium-on-charcoal (50% in water) in ethanol (6 ml) is placed under a hydrogen atmosphere and stirred for 4 hours. The reaction mixture is filtered through celite. The solvents are evaporated under reduced pressure and trans-N-{5-[((2S)-3-{[4-(1,1′-biphenyl-4-yl)cyclohexyl]amino}-2-hydroxypropyl)oxy]-2-hydroxyphenyl}methanesulfonamide is obtained in the form of a white solid (0.08 g, 68%) after purification on silica gel (eluent: dichloromethane/methanol, 99/1 to 85/15 gradient in 30 minutes).

reactant | trans-N-[5-[((2S)-3-{benzyl[4-(1,1′-biphenyl-4-yl)cyclohexyl]amino}-2-hydroxypropyl)oxy]-2-(benzyloxy)phenyl]methanesulfonamide | 0.23 mmol, 0.16 g | C(C1=CC=CC=C1)N(C[C@@H](COC=1C=CC(=C(C1)NS(=O)(=O)C)OCC1=CC=CC=C1)O)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C42H46N2O5S
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.1 g | [Pd] | Pd
product | trans-N-{5-[((2S)-3-{[4-(1,1′-biphenyl-4-yl)cyclohexyl]amino}-2-hydroxypropyl)oxy]-2-hydroxyphenyl}methanesulfonamide | C1(=CC=C(C=C1)[C@@H]1CC[C@H](CC1)NC[C@@H](COC=1C=CC(=C(C1)NS(=O)(=O)C)O)O)C1=CC=CC=C1 | C28H34N2O5S
